US04093812
Stir an admixture of 2 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde, 0.92 g of 2-hydrazinopyridine, 50 ml of ethanol and 2 drops of glacial acetic acid for 36 hours at room temperature. Cool the admixture and then form a precipitate with 50 ml of water to obtain a 95% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-(2-pyridyl)hydrazone [m.p. 228° to 231° C (with decomposition) from dimethylformamide/water].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | 2 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
reactant | 2-hydrazinopyridine | 0.92 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-(2-pyridyl)hydrazone | 95% yield | N1=C(C=CC=C1)NN=CC=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-] | C19H14N6O3
